US04849424
Following the procedure of Example 15, 180 mg of 6-chloro-4-(1-pyrazolyl)pyrimidine was reacted with 23 mg of sodium metal and 3 ml of anhydrous isopropylalcohol to yield 127 mg of an oily substance, 6-isopropoxy-4-(1-pyrazolyl)pyrimidine,

reactant | 6-chloro-4-(1-pyrazolyl)pyrimidine | 180 mg | ClC1=CC(=NC=N1)N1N=CC=C1 | C7H5ClN4
reactant | sodium | 23 mg | [Na] | Na
reactant | isopropylalcohol | 3 ml | C(C)(C)O | C3H8O
product | 6-isopropoxy-4-(1-pyrazolyl)pyrimidine | C(C)(C)OC1=CC(=NC=N1)N1N=CC=C1 | C10H12N4O
